US07932272B2
2-Phenoxy-thiazole-5-carboxylic acid ethyl ester
5-Oxo-2-phenoxythiocarbonyl-2,5-dihydro-isoxazole-4-carboxylic acid ethyl ester described in Preparation Example 113 (500 mg, 2.01 mmol) was dissolved in acetone (500 mL), and the solution was irradiated with light (300 nm) for 30 minutes at room temperature. The reaction solution was evaporated in vacuo, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1), and the title compound (384 mg, 1.54 mmol, 90%) was obtained as a pale yellow oil.

reactant | 5-Oxo-2-phenoxythiocarbonyl-2,5-dihydro-isoxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN(OC1=O)C(=S)OC1=CC=CC=C1 | C13H11NO5S
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | 2-Phenoxy-thiazole-5-carboxylic acid ethyl ester | 1.54 mmol, 384 mg, 90% | C(C)OC(=O)C1=CN=C(S1)OC1=CC=CC=C1 | C12H11NO3S
